US07820670B2
Step A: N1-(3-Bromoimidazo[1,2-b]pyridazin-6-yl)-N2,N2-dimethylethane-1,2-diamine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 2-(dimethylamino)ethylamine according to general procedure 1 providing the amino compound (456 mg, 74%) as a white solid; Rf=0.43 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.65 (d, J=9.6 Hz, 1H), 7.46 (s, 1H), 6.77 (d, J=9.7 Hz, 1H), 3.83 (t, J=5.9 Hz, 2H), 3.48 (t, J=6.0 Hz, 2H), 3.01 (s, 6H); ES-MS: (M+H)=284, 286 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 2-(dimethylamino)ethylamine | CN(CCN)C | C4H12N2
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | N1-(3-Bromoimidazo[1,2-b]pyridazin-6-yl)-N2,N2-dimethylethane-1,2-diamine | BrC1=CN=C2N1N=C(C=C2)NCCN(C)C | C10H14BrN5
